US06365671B1
A 4-necked 3-L flask, is equipped with a mechanical stirrer, a nitrogen inlet, and thermometer, is charged with 83% sulfuric acid (640 g) and phenol (354 g). To the resulting milky mixture, tribromoacetaldehyde (380 g) in an additional funnel is added dropwise. The reaction temperature is maintained below 30° C. After the addition, the mixture is allowed to stir at the room temperature for 18 hours, before water (640 g) is added. The resulting mixture is filtered and washed with more water to afford 1,1,1-tribromo-2,2-bis(4-hydroxyphenyl)ethane.

reactant | sulfuric acid | 640 g | S(O)(O)(=O)=O | H2O4S
reactant | phenol | 354 g | C1(=CC=CC=C1)O | C6H6O
reactant | tribromoacetaldehyde | 380 g | BrC(C=O)(Br)Br | C2HBr3O
solvent | water | 640 g | O | H2O
product | 1,1,1-tribromo-2,2-bis(4-hydroxyphenyl)ethane | BrC(C(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)(Br)Br | C14H11Br3O2
